US04975439
To a stirred and cooled solution (5° C.) of 3.99 parts of cis-4-amino-N-[1-(2-aminoethyl)-3-methoxy-4-piperidinyl]-5-chloro-2-methoxybenzamide in 90 parts of trichloromethane were added 1.32 parts of N,N-diethylethanamine. Then there was added dropwise a solution of 1.18 parts of dimethylcarbamic chloride in 60 parts of trichloromethane at a temperature below 5° C. Upon completion, stirring was continued first for one hour while cooling in an ice bath and further for 40 hours at room temperature. The reaction mixture was washed successively with water, sodium carbonate solution in water, and water, dried, filtered and evaporated. The product was filtered off and crystallized from acetonitrile, yielding 3.12 parts (73%) of cis-4-amino-5-chloro-N-[1-[2-[(dimethylamino)carbonylamino]ethyl]-3-methoxy-4-piperidinyl]-2-methoxybenzamide; mp. 206.5° C. (compound 80).

reactant | cis-4-amino-N-[1-(2-aminoethyl)-3-methoxy-4-piperidinyl]-5-chloro-2-methoxybenzamide | NC1=CC(=C(C(=O)N[C@@H]2[C@@H](CN(CC2)CCN)OC)C=C1Cl)OC | C16H25ClN4O3
reactant | N,N-diethylethanamine | C(C)N(CC)CC | C6H15N
reactant | dimethylcarbamic chloride | CN(C(=O)Cl)C | C3H6ClNO
solvent | trichloromethane | ClC(Cl)Cl | CHCl3
product | cis-4-amino-5-chloro-N-[1-[2-[(dimethylamino)carbonylamino]ethyl]-3-methoxy-4-piperidinyl]-2-methoxybenzamide | 73% | NC1=CC(=C(C(=O)N[C@@H]2[C@@H](CN(CC2)CCNC(=O)N(C)C)OC)C=C1Cl)OC | C19H30ClN5O4
